US07384934B2
(R)-[1-Methyl-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol
Add aqueous 37% formaldehyde (1.1 eqiv) to a solution of [(R)-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol (1 mmol) in dichloroethane (60 mL per 1 mmol non-alkylated starting material). Stir the mixture 2 minutes and add sodium triacetoxyborohydride (1.5 mmol per 1 mmol non-alkylated starting material). Stir the suspension for 30 minutes and quench with a saturated aqueous solution of sodium bicarbonate. Extract the aqueous phase 3 times with dichloromethane and combine the organic phases, dry over magnesium sulfate, filter and concentrate. Purify the residue via chromatography on silica gel (methylene chloride/methanol (90:10) affords the title compound as a yellow powder: mp 118-124° C.; 1H NMR (CDCl3) δ 2.31 (s, 3H), 2.43 (s, 3H), 2.45 (m, 1H), 2.59 (m, 1H), 2.82 (m, 1H), 3.31 (m, 1H), 3.58 (dd, 1H) 3.67-3.79 (m, 3H), 3.86 (dd, 1H), 4.96 (s, 1H), 6.30 (s, 1H), 6.60 (d, 1H), 6.87 (t, 1H), 6.96 (t, 1H), 7.01 (d, 1H); MS (APCI) m/z (rel intensity) 343 (100).

reactant | formaldehyde | C=O | CH2O
reactant | [(R)-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol | 1 mmol | CC1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CO | C17H20N4OS
reactant | dichloroethane | 1 mmol, 60 mL | ClC(C)Cl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 1.5 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (R)-[1-Methyl-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol | CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)CO | C18H22N4OS
